US06403561B1
Preparation of Ethyl 2-oxo-3-methylbutanoate Phenylhydrazone
A mixture of ethyl 2-oxo-3-methylbutanoate (23.76 g) and phenylhydrazine (25 ml) was heated at 60° C. in toluene for about one hour, during which time a slight vacuum was used in order to remove the water. After removing the solvent, the residue was chromatographed on silica gel, using a 4/1 petroleum ether/ethyl acetate mixture as eluent, in order to give the desired product in the form of a yellow oil.

reactant | ethyl 2-oxo-3-methylbutanoate | 23.76 g | O=C(C(=O)OCC)C(C)C | C7H12O3
reactant | phenylhydrazine | 25 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-oxo-3-methylbutanoate Phenylhydrazone | C1(=CC=CC=C1)NN=C(C(C(C)C)=O)OCC | C13H18N2O2
